US05608069
A mixture of hydroxylammonium chloride (10.0 g, 144 mmol) and sodium hydroxide (6.0 g, 150 mmol) in absolute ethanol (200 ml) was stirred for 1 h. The precipitated sodium chloride was filtered off and 2-methoxyacetophenone (10.0 g, 67 mmol) was added to the filtrate. The mixture was heated at reflux for 30 min. The precipitated compound was collected and recrystallised from n-heptane/ethanol 9/1 to give 7.1 g 2-methoxyacetophenone oxime.

reactant | hydroxylammonium chloride | 144 mmol, 10.0 g | [Cl-].O[NH3+]
reactant | sodium hydroxide | 150 mmol, 6.0 g | [OH-].[Na+]
reactant | 2-methoxyacetophenone | 67 mmol, 10.0 g | COCC(=O)C1=CC=CC=C1 | C9H10O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-methoxyacetophenone oxime | 7.1 g | COCC(C1=CC=CC=C1)=NO | C9H11NO2
